US07053095B2
Step C: Preparation of 3-Isopropyl-6-(6-methylpyridin-2-ylethynyl)-[1,2,4]triazolo(4,3-a)pyridine
To a 250 mL round bottom flask was added 1.47 grams (7.94 mmol) of 3-Isopropyl-6-ethynyl-[1,2,4]triazolo(4,3-a)pyridine, 40 mL of anhydrous THF, 40 mL of TMEDA, 279 mg (0.4 mmol) of bis(triphenylphosphine)palladium (II) chloride, 151 mg (0.8 mmol) of copper iodide, and 1.8 mL (15.9 mmol, d=1.512) of 2-bromo-6-methylpyridine. Argon gas was bubbled into the reaction mixture for 5 minutes. The reaction mixture was stirred at 60° C. for 5 hours. The reaction mixture was cooled and concentrated to dryness. The residue was suspended in a mixture of ethyl acetate and water (80 mL each) and filtered through celite that was packed with ethyl acetate. The celite was washed with 100 mL of ethyl acetate. After separating the organic layer, the filtrate was extracted with 50 mL of ethyl acetate. All the organic layers were combined, washed with 100 mL of water, then washed with 100 mL of brine, dried over magnesium sulfate, filtered, and concentrated. Product was purified by flash column chromatography (Biotage flash 40M silica gel packed cartridge) using a 0 to 80% ethyl acetate/chloroform solvent step-gradient which yielded 840 milligrams (38%) of an orange syrup. HPLC tR=4.27 min (100%), LC-MS=277 (M+1).

reactant | 3-Isopropyl-6-ethynyl-[1,2,4]triazolo(4,3-a)pyridine | 7.94 mmol, 1.47 grams | C(C)(C)C1=NN=C2N1C=C(C=C2)C#C | C11H11N3
reactant | TMEDA | 40 mL | CN(C)CCN(C)C | C6H16N2
reactant | 2-bromo-6-methylpyridine | 15.9 mmol, 1.8 mL | BrC1=NC(=CC=C1)C | C6H6BrN
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.4 mmol, 279 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.8 mmol, 151 mg | [Cu](I)I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-Isopropyl-6-(6-methylpyridin-2-ylethynyl)-[1,2,4]triazolo(4,3-a)pyridine | 840 milligrams, 38% | C(C)(C)C1=NN=C2N1C=C(C=C2)C#CC2=NC(=CC=C2)C | C17H16N4
